** sch_path: /foss/designs/CHIP-PLL/divider/tb/pdiv_sym_tb.sch
**.subckt pdiv_sym_tb
V1 VP 0 1.2
V2 clk 0 PULSE(0 1.2 0 100p 100p 1.5625n 3.125n)
x1 0 VP clk out div2 div4 div8 div16 div32 div64 div_with_reset
x2 net3 VP 0 div2 div4 div8 div16 div32 div64 d0 d1 d2 d3 d4 d5 count_data_check
C2 div64 0 1f
C1 div32 0 1f
C3 div16 0 1f
C4 div8 0 1f
C5 div4 0 1f
C6 div2 0 1f
x7 net3 net1 VP 0 inverter_x2
x8 net1 out VP 0 inverter_x4
x19 out_div VP 0 net2 out net2 d_flip_flop
V7 d3 0 0
V8 d4 0 0
V9 d5 0 0
V10 d1 0 PULSE(0 1.2 0 100p 100p 3u 6u)
V11 d0 0 PULSE(0 1.2 0 100p 100p 1.5u 3u)
V12 d2 0 PULSE(0 1.2 0 100p 100p 6u 12u)
**** begin user architecture code
 .lib cornerMOSlv.lib mos_tt



.param temp=27
.control
set maxdata = 1000
op
print all
save all

tran 50p 14u
write pdiv_tb.raw
set appendwrite

.endc


**** end user architecture code
**.ends

* expanding   symbol:  /foss/designs/CHIP-PLL/divider/schematics/div_with_reset.sym # of pins=10
** sym_path: /foss/designs/CHIP-PLL/divider/schematics/div_with_reset.sym
** sch_path: /foss/designs/CHIP-PLL/divider/schematics/div_with_reset.sch
.subckt div_with_reset gd vp in reset div2 div4 div8 div16 div32 div64
*.iopin gd
*.ipin in
*.iopin vp
*.opin div2
*.opin div4
*.opin div8
*.opin div16
*.opin div32
*.opin div64
*.ipin reset
x7 reset r vp gd inverter_x4
x1 net2 vp gd div2 in div2 r d_flip_flop_reset
x2 net1 vp gd div4 net2 div4 r d_flip_flop_reset
x3 net3 vp gd div8 net1 div8 r d_flip_flop_reset
x4 net4 vp gd div16 net3 div16 r d_flip_flop_reset
x5 net5 vp gd div32 net4 div32 r d_flip_flop_reset
x6 net6 vp gd div64 net5 div64 r d_flip_flop_reset
.ends


* expanding   symbol:  /foss/designs/CHIP-PLL/divider/schematics/count_data_check.sym # of pins=15
** sym_path: /foss/designs/CHIP-PLL/divider/schematics/count_data_check.sym
** sch_path: /foss/designs/CHIP-PLL/divider/schematics/count_data_check.sch
.subckt count_data_check out VP GND c0 c1 c2 c3 c4 c5 d0 d1 d2 d3 d4 d5
*.iopin GND
*.ipin c0
*.iopin VP
*.ipin c1
*.opin out
*.ipin c2
*.ipin c3
*.ipin c4
*.ipin c5
*.ipin d0
*.ipin d1
*.ipin d3
*.ipin d4
*.ipin d5
*.ipin d2
x1 VP GND d0 y0 c0 XNOR
x2 VP GND d1 y1 c1 XNOR
x3 VP GND d2 y2 c2 XNOR
x4 VP GND d3 y3 c3 XNOR
x5 VP GND d4 y4 c4 XNOR
x6 VP GND d5 y5 c5 XNOR
x18 VP GND y3 and345 y4 y5 NAND_3in
x19 VP GND y0 and012 y1 y2 NAND_3in
x15 VP GND and012 out and345 NOR_2in
.ends


* expanding   symbol:  /foss/designs/CHIP-PLL/divider/schematics/inverter_x2.sym # of pins=4
** sym_path: /foss/designs/CHIP-PLL/divider/schematics/inverter_x2.sym
** sch_path: /foss/designs/CHIP-PLL/divider/schematics/inverter_x2.sch
.subckt inverter_x2 IN OUT VP GND
*.ipin IN
*.iopin VP
*.opin OUT
*.iopin GND
XM1 OUT IN GND GND sg13_lv_nmos w=0.30u l=0.13u ng=1
XM2 OUT IN VP VP sg13_lv_pmos w=0.30u l=0.13u ng=1
.ends


* expanding   symbol:  /foss/designs/CHIP-PLL/divider/schematics/inverter_x4.sym # of pins=4
** sym_path: /foss/designs/CHIP-PLL/divider/schematics/inverter_x4.sym
** sch_path: /foss/designs/CHIP-PLL/divider/schematics/inverter_x4.sch
.subckt inverter_x4 IN OUT VP GND
*.ipin IN
*.iopin VP
*.opin OUT
*.iopin GND
XM1 OUT IN GND GND sg13_lv_nmos w=0.60u l=0.13u ng=1
XM2 OUT IN VP VP sg13_lv_pmos w=0.60u l=0.13u ng=1
.ends


* expanding   symbol:  /foss/designs/CHIP-PLL/divider/schematics/d_flip_flop.sym # of pins=6
** sym_path: /foss/designs/CHIP-PLL/divider/schematics/d_flip_flop.sym
** sch_path: /foss/designs/CHIP-PLL/divider/schematics/d_flip_flop.sch
.subckt d_flip_flop q VP GND q_ clk d
*.iopin GND
*.ipin clk
*.iopin VP
*.ipin d
*.opin q
*.opin q_
x3 VP GND net4 net2 net1 NAND_2in
x2 VP GND net2 net1 clk NAND_2in
x4 VP GND net1 q q_ NAND_2in
x5 VP GND q q_ net3 NAND_2in
x6 VP GND net3 net4 d NAND_2in
x1 VP GND net1 net3 clk net4 NAND_3in
.ends


* expanding   symbol:  /foss/designs/CHIP-PLL/divider/schematics/d_flip_flop_reset.sym # of pins=7
** sym_path: /foss/designs/CHIP-PLL/divider/schematics/d_flip_flop_reset.sym
** sch_path: /foss/designs/CHIP-PLL/divider/schematics/d_flip_flop_reset.sch
.subckt d_flip_flop_reset q VP GND q_ clk d reset
*.iopin GND
*.ipin clk
*.iopin VP
*.ipin d
*.opin q
*.opin q_
*.ipin reset
x3 VP GND net4 net2 net1 NAND_2in
x2 VP GND net2 net1 clk reset NAND_3in
x4 VP GND net1 q q_ NAND_2in_x2
x5 VP GND q q_ net3 reset NAND_3in_x2
x6 VP GND net3 net4 d reset NAND_3in
x1 VP GND net1 net3 clk net4 NAND_3in
.ends


* expanding   symbol:  /foss/designs/CHIP-PLL/divider/schematics/XNOR.sym # of pins=5
** sym_path: /foss/designs/CHIP-PLL/divider/schematics/XNOR.sym
** sch_path: /foss/designs/CHIP-PLL/divider/schematics/XNOR.sch
.subckt XNOR VP GND a y b
*.opin y
*.iopin GND
*.ipin a
*.iopin VP
*.ipin b
XM1 y a net1 GND sg13_lv_nmos w=0.15u l=0.13u ng=1
XM3 net1 _b GND GND sg13_lv_nmos w=0.15u l=0.13u ng=1
XM2 net2 a VP VP sg13_lv_pmos w=0.15u l=0.13u ng=1 m=4
XM4 net3 _a VP VP sg13_lv_pmos w=0.15u l=0.13u ng=1 m=4
XM5 y _a net4 GND sg13_lv_nmos w=0.15u l=0.13u ng=1
XM6 net4 b GND GND sg13_lv_nmos w=0.15u l=0.13u ng=1
XM7 y b net2 VP sg13_lv_pmos w=0.15u l=0.13u ng=1 m=4
XM8 y _b net3 VP sg13_lv_pmos w=0.15u l=0.13u ng=1 m=4
x1 a _a VP GND inverter
x2 b _b VP GND inverter
.ends


* expanding   symbol:  /foss/designs/CHIP-PLL/divider/schematics/NAND_3in.sym # of pins=6
** sym_path: /foss/designs/CHIP-PLL/divider/schematics/NAND_3in.sym
** sch_path: /foss/designs/CHIP-PLL/divider/schematics/NAND_3in.sch
.subckt NAND_3in VP GND a y b c
*.opin y
*.iopin GND
*.ipin a
*.iopin VP
*.ipin b
*.ipin c
XM1 y a net2 GND sg13_lv_nmos w=0.15u l=0.13u ng=1
XM3 net2 b net1 GND sg13_lv_nmos w=0.15u l=0.13u ng=1
XM4 net1 c GND GND sg13_lv_nmos w=0.15u l=0.13u ng=1
XM7 y c VP VP sg13_lv_pmos w=0.15u l=0.13u ng=1
XM2 y a VP VP sg13_lv_pmos w=0.15u l=0.13u ng=1
XM5 y b VP VP sg13_lv_pmos w=0.15u l=0.13u ng=1
.ends


* expanding   symbol:  /foss/designs/CHIP-PLL/divider/schematics/NOR_2in.sym # of pins=5
** sym_path: /foss/designs/CHIP-PLL/divider/schematics/NOR_2in.sym
** sch_path: /foss/designs/CHIP-PLL/divider/schematics/NOR_2in.sch
.subckt NOR_2in VP GND a y b
*.opin y
*.iopin GND
*.ipin a
*.iopin VP
*.ipin b
XM3 y a GND GND sg13_lv_nmos w=0.15u l=0.13u ng=1
XM2 y b net1 VP sg13_lv_pmos w=0.15u l=0.13u ng=1
XM4 net1 a VP VP sg13_lv_pmos w=0.15u l=0.13u ng=1
XM5 y b GND GND sg13_lv_nmos w=0.15u l=0.13u ng=1
.ends


* expanding   symbol:  /foss/designs/CHIP-PLL/divider/schematics/NAND_2in.sym # of pins=5
** sym_path: /foss/designs/CHIP-PLL/divider/schematics/NAND_2in.sym
** sch_path: /foss/designs/CHIP-PLL/divider/schematics/NAND_2in.sch
.subckt NAND_2in VP GND a y b
*.opin y
*.iopin GND
*.ipin a
*.iopin VP
*.ipin b
XM1 y a net1 GND sg13_lv_nmos w=0.15u l=0.13u ng=1
XM3 net1 b GND GND sg13_lv_nmos w=0.15u l=0.13u ng=1
XM2 y b VP VP sg13_lv_pmos w=0.15u l=0.13u ng=1
XM4 y a VP VP sg13_lv_pmos w=0.15u l=0.13u ng=1
.ends


* expanding   symbol:  /foss/designs/CHIP-PLL/divider/schematics/NAND_2in_x2.sym # of pins=5
** sym_path: /foss/designs/CHIP-PLL/divider/schematics/NAND_2in_x2.sym
** sch_path: /foss/designs/CHIP-PLL/divider/schematics/NAND_2in_x2.sch
.subckt NAND_2in_x2 VP GND a y b
*.opin y
*.iopin GND
*.ipin a
*.iopin VP
*.ipin b
XM1 y a net1 GND sg13_lv_nmos w=0.15u l=0.13u ng=1 m=2
XM3 net1 b GND GND sg13_lv_nmos w=0.15u l=0.13u ng=1 m=2
XM2 y b VP VP sg13_lv_pmos w=0.15u l=0.13u ng=1 m=2
XM4 y a VP VP sg13_lv_pmos w=0.150u l=0.13u ng=1 m=2
.ends


* expanding   symbol:  /foss/designs/CHIP-PLL/divider/schematics/NAND_3in_x2.sym # of pins=6
** sym_path: /foss/designs/CHIP-PLL/divider/schematics/NAND_3in_x2.sym
** sch_path: /foss/designs/CHIP-PLL/divider/schematics/NAND_3in_x2.sch
.subckt NAND_3in_x2 VP GND a y b c
*.opin y
*.iopin GND
*.ipin a
*.iopin VP
*.ipin b
*.ipin c
XM1 y a net2 GND sg13_lv_nmos w=0.150u l=0.13u ng=1 m=2
XM3 net2 b net1 GND sg13_lv_nmos w=0.150u l=0.13u ng=1 m=2
XM4 net1 c GND GND sg13_lv_nmos w=0.150u l=0.13u ng=1 m=2
XM7 y c VP VP sg13_lv_pmos w=0.150u l=0.13u ng=1 m=2
XM2 y a VP VP sg13_lv_pmos w=0.150u l=0.13u ng=1 m=2
XM5 y b VP VP sg13_lv_pmos w=0.150u l=0.13u ng=1 m=2
.ends


* expanding   symbol:  /foss/designs/CHIP-PLL/divider/schematics/inverter.sym # of pins=4
** sym_path: /foss/designs/CHIP-PLL/divider/schematics/inverter.sym
** sch_path: /foss/designs/CHIP-PLL/divider/schematics/inverter.sch
.subckt inverter IN OUT VP GND
*.ipin IN
*.iopin VP
*.opin OUT
*.iopin GND
XM1 OUT IN GND GND sg13_lv_nmos w=0.15u l=0.13u ng=1
XM2 OUT IN VP VP sg13_lv_pmos w=0.15u l=0.13u ng=1
.ends

.end
